.title kicad schematic

.include MOSFET_2N7002.lib
* u7 net-_r1-pad1_ net-_r1-pad1_ gnd gnd net-_r1-pad1_ net-_r1-pad1_ gnd gnd net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ net-_u6-pad17_ net-_u6-pad18_ net-_u6-pad19_ adc_bridge_8
* u3 net-_r1-pad1_ gnd net-_r1-pad1_ gnd net-_r1-pad1_ gnd net-_r1-pad1_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ adc_bridge_7
vv3 net-_u2-pad1_ gnd pulse(0 5 20u 100n 100n 200u 1m)
* u1 net-_r1-pad1_ net-_u1-pad2_ adc_bridge_1
vv4 net-_u15-pad1_ gnd pulse(5 0 0 1n 1n 5u 10m)
* u11 net-_r1-pad1_ gnd gnd net-_r1-pad1_ net-_r1-pad1_ gnd gnd net-_r1-pad1_ net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ adc_bridge_8
* u5 net-_u16-pad1_ net-_u5-pad2_ adc_bridge_1
* u4 net-_u15-pad1_ net-_u4-pad2_ adc_bridge_1
* u6 net-_u5-pad2_ net-_u4-pad2_ net-_u2-pad2_ net-_u1-pad2_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ net-_u6-pad17_ net-_u6-pad18_ net-_u6-pad19_ net-_u6-pad20_ net-_u6-pad21_ net-_u10-pad1_ net-_u21-pad1_ net-_u21-pad2_ net-_u21-pad3_ net-_u21-pad4_ net-_u21-pad5_ net-_u21-pad6_ net-_u21-pad7_ net-_u21-pad8_ net-_u22-pad1_ unconnected-_u6-pad32_ i2c_master_core
* u8 /sda_bus net-_u6-pad20_ adc_bridge_1
* u2 net-_u2-pad1_ net-_u2-pad2_ adc_bridge_1
m3 /sda_bus net-_m3-pad2_ gnd gnd 2N7002 W=100u L=100u M=1
vv1 net-_u16-pad1_ gnd pulse(0 5 0 100n 100n 400n 1u)
c1 /scl_bus gnd 33pf
* u10 net-_u10-pad1_ net-_m1-pad2_ dac_bridge_1
* u9 net-_u6-pad21_ net-_m2-pad2_ dac_bridge_1
m1 /scl_bus net-_m1-pad2_ gnd gnd 2N7002 W=100u L=100u M=1
m2 /sda_bus net-_m2-pad2_ gnd gnd 2N7002 W=100u L=100u M=1
r2 net-_r1-pad1_ /sda_bus 3.3k
r1 net-_r1-pad1_ /scl_bus 3.3k
c2 /sda_bus gnd 33pf
v2 net-_r1-pad1_ gnd 5v
* u14 /sda_bus net-_u14-pad2_ adc_bridge_1
* u13 /scl_bus net-_u13-pad2_ adc_bridge_1
* u16 net-_u16-pad1_ net-_u16-pad2_ adc_bridge_1
* u15 net-_u15-pad1_ net-_u15-pad2_ adc_bridge_1
* u12 net-_u12-pad1_ net-_m3-pad2_ dac_bridge_1
* u18 net-_r1-pad1_ gnd net-_r1-pad1_ gnd net-_r1-pad1_ gnd net-_r1-pad1_ net-_u17-pad3_ net-_u17-pad4_ net-_u17-pad5_ net-_u17-pad6_ net-_u17-pad7_ net-_u17-pad8_ net-_u17-pad9_ adc_bridge_7
* u17 net-_u16-pad2_ net-_u15-pad2_ net-_u17-pad3_ net-_u17-pad4_ net-_u17-pad5_ net-_u17-pad6_ net-_u17-pad7_ net-_u17-pad8_ net-_u17-pad9_ net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ net-_u13-pad2_ net-_u14-pad2_ net-_u12-pad1_ net-_u17-pad21_ net-_u17-pad22_ net-_u17-pad23_ net-_u17-pad24_ net-_u17-pad25_ net-_u17-pad26_ net-_u17-pad27_ net-_u17-pad28_ net-_u17-pad29_ i2c_slave_core
* u22 net-_u22-pad1_ /m_rx_valid0 dac_bridge_1
* u21 net-_u21-pad1_ net-_u21-pad2_ net-_u21-pad3_ net-_u21-pad4_ net-_u21-pad5_ net-_u21-pad6_ net-_u21-pad7_ net-_u21-pad8_ /m_rx_data0 /m_rx_data1 /m_rx_data2 /m_rx_data3 /m_rx_data4 /m_rx_data5 /m_rx_data6 /m_rx_data7 dac_bridge_8
* u20 net-_u17-pad29_ /s_rx_valid0 dac_bridge_1
* u19 net-_u17-pad21_ net-_u17-pad22_ net-_u17-pad23_ net-_u17-pad24_ net-_u17-pad25_ net-_u17-pad26_ net-_u17-pad27_ net-_u17-pad28_ /s_rx_data0 /s_rx_data1 /s_rx_data2 /s_rx_data3 /s_rx_data4 /s_rx_data5 /s_rx_data6 /s_rx_data7 dac_bridge_8
a1 [net-_r1-pad1_ net-_r1-pad1_ gnd gnd net-_r1-pad1_ net-_r1-pad1_ gnd gnd ] [net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ net-_u6-pad17_ net-_u6-pad18_ net-_u6-pad19_ ] u7
a2 [net-_r1-pad1_ gnd net-_r1-pad1_ gnd net-_r1-pad1_ gnd net-_r1-pad1_ ] [net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ ] u3
a3 [net-_r1-pad1_ ] [net-_u1-pad2_ ] u1
a4 [net-_r1-pad1_ gnd gnd net-_r1-pad1_ net-_r1-pad1_ gnd gnd net-_r1-pad1_ ] [net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ ] u11
a5 [net-_u16-pad1_ ] [net-_u5-pad2_ ] u5
a6 [net-_u15-pad1_ ] [net-_u4-pad2_ ] u4
a7 [net-_u5-pad2_ ] [net-_u4-pad2_ ] [net-_u2-pad2_ ] [net-_u1-pad2_ ] [net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ ] [net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ net-_u6-pad17_ net-_u6-pad18_ net-_u6-pad19_ ] [net-_u6-pad20_ ] [net-_u6-pad21_ ] [net-_u10-pad1_ ] [net-_u21-pad1_ net-_u21-pad2_ net-_u21-pad3_ net-_u21-pad4_ net-_u21-pad5_ net-_u21-pad6_ net-_u21-pad7_ net-_u21-pad8_ ] [net-_u22-pad1_ ] [unconnected-_u6-pad32_ ] u6
a8 [/sda_bus ] [net-_u6-pad20_ ] u8
a9 [net-_u2-pad1_ ] [net-_u2-pad2_ ] u2
a10 [net-_u10-pad1_ ] [net-_m1-pad2_ ] u10
a11 [net-_u6-pad21_ ] [net-_m2-pad2_ ] u9
a12 [/sda_bus ] [net-_u14-pad2_ ] u14
a13 [/scl_bus ] [net-_u13-pad2_ ] u13
a14 [net-_u16-pad1_ ] [net-_u16-pad2_ ] u16
a15 [net-_u15-pad1_ ] [net-_u15-pad2_ ] u15
a16 [net-_u12-pad1_ ] [net-_m3-pad2_ ] u12
a17 [net-_r1-pad1_ gnd net-_r1-pad1_ gnd net-_r1-pad1_ gnd net-_r1-pad1_ ] [net-_u17-pad3_ net-_u17-pad4_ net-_u17-pad5_ net-_u17-pad6_ net-_u17-pad7_ net-_u17-pad8_ net-_u17-pad9_ ] u18
a18 [net-_u16-pad2_ ] [net-_u15-pad2_ ] [net-_u17-pad3_ net-_u17-pad4_ net-_u17-pad5_ net-_u17-pad6_ net-_u17-pad7_ net-_u17-pad8_ net-_u17-pad9_ ] [net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u11-pad13_ net-_u11-pad14_ net-_u11-pad15_ net-_u11-pad16_ ] [net-_u13-pad2_ ] [net-_u14-pad2_ ] [net-_u12-pad1_ ] [net-_u17-pad21_ net-_u17-pad22_ net-_u17-pad23_ net-_u17-pad24_ net-_u17-pad25_ net-_u17-pad26_ net-_u17-pad27_ net-_u17-pad28_ ] [net-_u17-pad29_ ] u17
a19 [net-_u22-pad1_ ] [/m_rx_valid0 ] u22
a20 [net-_u21-pad1_ net-_u21-pad2_ net-_u21-pad3_ net-_u21-pad4_ net-_u21-pad5_ net-_u21-pad6_ net-_u21-pad7_ net-_u21-pad8_ ] [/m_rx_data0 /m_rx_data1 /m_rx_data2 /m_rx_data3 /m_rx_data4 /m_rx_data5 /m_rx_data6 /m_rx_data7 ] u21
a21 [net-_u17-pad29_ ] [/s_rx_valid0 ] u20
a22 [net-_u17-pad21_ net-_u17-pad22_ net-_u17-pad23_ net-_u17-pad24_ net-_u17-pad25_ net-_u17-pad26_ net-_u17-pad27_ net-_u17-pad28_ ] [/s_rx_data0 /s_rx_data1 /s_rx_data2 /s_rx_data3 /s_rx_data4 /s_rx_data5 /s_rx_data6 /s_rx_data7 ] u19
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_7, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             i2c_master_core, Ngspice Name: i2c_master_core
.model u6 i2c_master_core(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=20e-9 t_fall=20e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=20e-9 t_fall=20e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u16 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u12 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=20e-9 t_fall=20e-9 ) 
* Schematic Name:                             adc_bridge_7, Ngspice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             i2c_slave_core, Ngspice Name: i2c_slave_core
.model u17 i2c_slave_core(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u22 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u21 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u20 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u19 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 100e-09 2.5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
