* Subcircuit CD40107BE_SUB
.subckt CD40107BE_SUB net-_m2-pad2_ net-_m1-pad2_ net-_m7-pad1_ net-_m1-pad4_ net-_m14-pad1_ net-_m10-pad2_ net-_m11-pad2_ net-_m10-pad1_ 
.title kicad schematic
.include PMOS-180nm.lib
.include NMOS-180nm.lib
m14 net-_m14-pad1_ net-_m12-pad1_ net-_m1-pad4_ net-_m1-pad4_ CMOSN W=100u L=100u M=1
m12 net-_m12-pad1_ net-_m10-pad3_ net-_m1-pad4_ net-_m1-pad4_ CMOSN W=100u L=100u M=1
m9 net-_m8-pad3_ net-_m10-pad2_ net-_m1-pad4_ net-_m1-pad4_ CMOSN W=100u L=100u M=1
m8 net-_m10-pad3_ net-_m11-pad2_ net-_m8-pad3_ net-_m1-pad4_ CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m5 net-_m5-pad1_ net-_m1-pad1_ net-_m1-pad4_ net-_m1-pad4_ CMOSN W=100u L=100u M=1
m3 net-_m10-pad1_ net-_m2-pad2_ net-_m1-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m2 net-_m1-pad3_ net-_m2-pad2_ net-_m1-pad4_ net-_m1-pad4_ CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad4_ CMOSN W=100u L=100u M=1
r2 net-_m14-pad1_ net-_m10-pad1_ 10k
m13 net-_m10-pad1_ net-_m10-pad3_ net-_m12-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m11 net-_m10-pad1_ net-_m11-pad2_ net-_m10-pad3_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m4 net-_m10-pad1_ net-_m1-pad2_ net-_m1-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
m6 net-_m10-pad1_ net-_m1-pad1_ net-_m5-pad1_ net-_m10-pad1_ CMOSP W=100u L=100u M=1
r1 net-_m7-pad1_ net-_m10-pad1_ 10k
m7 net-_m7-pad1_ net-_m5-pad1_ net-_m1-pad4_ net-_m1-pad4_ CMOSN W=100u L=100u M=1
* Control Statements

.ends CD40107BE_SUB